US04451471
20.0 g of 4,5-bis-(p-methoxyphenyl)-thiazoline-2-thione are dissolved in 100 ml of hexamethylphosphoric acid triamide at 35°. The mixture is allowed to cool to 20°, first 11.2 g of 2-bromoacetaldehyde-dimethylacetal and then, in portions, 2.9 g of 50% strength sodium hydride suspension (in mineral oil, de-oiled with hexane) are added, the reaction temperature being maintained at 25°-30° by cooling. The mixture is then stirred at room temperature for 1 hour, poured onto ice, the oil which separates is brought into solution with diethyl ether, and the organic phase is removed. The aqueous phase is extracted by shaking again with 200 ml of diethyl ether. The organic phases are combined, washed with 200 ml of 2 N sodium hydroxide solution, dried over magnesium sulphate and concentrated by evaporation. The oily crude product is crystallised from hexane and made into a slurry with methanol. 2-[4,5-bis-(p-methoxyphenyl)-thiazol-2-ylthio]-acetaldehyde-dimethylacetal having a melting point of 60°-61° is obtained.

reactant | 4,5-bis-(p-methoxyphenyl)-thiazoline-2-thione | 20.0 g | COC1=CC=C(C=C1)C1=NC(SC1C1=CC=C(C=C1)OC)=S | C17H15NO2S2
reactant | 2-bromoacetaldehyde-dimethylacetal | 11.2 g | COC(CBr)OC | C4H9BrO2
reactant | sodium hydride | [H-].[Na+]
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | hexamethylphosphoric acid triamide | 100 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 2-[4,5-bis-(p-methoxyphenyl)-thiazol-2-ylthio]-acetaldehyde-dimethylacetal | COC(CSC=1SC(=C(N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)OC | C21H23NO4S2
